US07786165B2
ethyl 6-(acetylamino)-4′-[(4-hydroxytetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-carboxylate
To a solution of ethyl 6-(acetylamino)-4′-hydroxy-2′,6′-dimethylbiphenyl-3-carboxylate (490 mg, 1.50 mmol) and 1-oxa-6-thiaspiro[2.5]octane (224 mg, 1.72 mmol) in N,N-dimethylformamide (8 mL) was added potassium carbonate (238 mg, 1.72 mmol), and the mixture was stirred at 80° C. for 10 hr. Brine was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1-hexane/ethyl acetate=2/3), and then by basic silica gel column chromatography (hexane/ethyl acetate=9/1-hexane/ethyl acetate=1/2) to give the title compound (270 mg, yield 39%) as a colorless oil.

reactant | ethyl 6-(acetylamino)-4′-hydroxy-2′,6′-dimethylbiphenyl-3-carboxylate | 1.50 mmol, 490 mg | C(C)(=O)NC1=CC=C(C=C1C1=C(C=C(C=C1C)O)C)C(=O)OCC | C19H21NO4
reactant | 1-oxa-6-thiaspiro[2.5]octane | 1.72 mmol, 224 mg | O1CC12CCSCC2 | C6H10OS
reactant | potassium carbonate | 1.72 mmol, 238 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | Brine | [Cl-].[Na+].O
product | ethyl 6-(acetylamino)-4′-[(4-hydroxytetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-carboxylate | 270 mg, yield 39% | C(C)(=O)NC1=CC=C(C=C1C1=C(C=C(C=C1C)OCC1(CCSCC1)O)C)C(=O)OCC | C25H31NO5S
